US06960661B2
1.5a 3 g of ethyl (7-chloro-1-methyl-3-propyl-1H-pyrazolo-[4,3-d]pyrimidin-5-ylmethoxy)acetate and 1.9 g of 3-chloro-4-methoxy-benzylamine in 50 ml of dimethylformamide (DMF) are stirred at 60° for 12 hours in the presence of potassium carbonate. After filtration, the solvent is removed, and the mixture is subjected to conventional work-up, giving 4.6 g of ethyl [7-(3-chloro-4-methoxybenzylamino)-1-methyl-3-propyl-1H-pyrazolo[4,3-d]pyrimidin-5-ylmethoxy]acetate.

reactant | ethyl (7-chloro-1-methyl-3-propyl-1H-pyrazolo-[4,3-d]pyrimidin-5-ylmethoxy)acetate | ClC=1C2=C(N=C(N1)COCC(=O)OCC)C(=NN2C)CCC | C14H19ClN4O3
reactant | 3-chloro-4-methoxy-benzylamine | 1.9 g | ClC=1C=C(CN)C=CC1OC | C8H10ClNO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl [7-(3-chloro-4-methoxybenzylamino)-1-methyl-3-propyl-1H-pyrazolo[4,3-d]pyrimidin-5-ylmethoxy]acetate | 4.6 g | ClC=1C=C(CNC=2C3=C(N=C(N2)COCC(=O)OCC)C(=NN3C)CCC)C=CC1OC | C22H28ClN5O4
